US03954764
24 G. of 10-chloro-10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin in 100 ml. of chloroform are heated with 55 ml. of 1-carbethoxypiperazine under reflux conditions for 20 hours. The mixture is poured on to ice/water and extracted with chloroform. The organic phase is dried over magnesium sulfate and evaporated under reduced pressure, whereby there is obtained crude 1-carbethoxy-4-(10,11-dihydro-3-methoxy-8-methylthiodibenzo[b,f]thiepin-10-yl)-piperazine.

reactant | 10-chloro-10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)SC)C=C(C=C2)OC | C16H15ClOS2
reactant | 1-carbethoxypiperazine | C(=O)(OCC)N1CCNCC1 | C7H14N2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-carbethoxy-4-(10,11-dihydro-3-methoxy-8-methylthiodibenzo[b,f]thiepin-10-yl)-piperazine | C(=O)(OCC)N1CCN(CC1)C1CC2=C(SC3=C1C=C(C=C3)SC)C=C(C=C2)OC | C23H28N2O3S2
